US08202868B2
2-tert-Butyl-4-{4-[3-(4-methyl-5-methyl-4H-[1,2,4]triazol-3-ylsulfanyl)-propyl]-piperazin-1-yl}-6-cyclopropyl-pyrimidine hydrochloride
0.23 g of 4-Methyl-5-methyl-4H-[1,2,4]triazole-3-thiol (1.78 mmol), 0.04 g lithium hydroxide (1.78 mmol) and 0.13 g sodium iodide (0.89 mmol) were dissolved in 20 ml of dimethylformamide. Within 2 h, 0.6 g of 2-tert-butyl-4-[4-(3-chloro-propyl)-piperazin-1-yl]-6-cyclopropyl-pyrimidine (1.78 mmol), dissolved in 5 ml dimethylformamide, were added at 70° C. The mixture was stirred for 1 h at 80° C. After cooling to room temperature, the solvent was evaporated and the oily residue partitioned between 30 ml of ethyl acetate and 15 ml of water plus 15 ml of a saturated solution of sodium chloride in water. The aqueous layer was reextracted twice with 20 ml of ethyl acetate each, the organic phases combined, dried over magnesium sulfate, filtered, and the solvent was evaporated. The residue was purified by column chromatography on silica gel using ethyl acetate, ethyl acetate-methanol 9:1, and ethyl acetate-methanol 1:1. Fractions containing the product were combined. After evaporation of the solvent, the residue was re-dissolved in diisopropylethyl ether and a 1 N solution of HCl in diethylether was added. The precipitated hydrochloride salt was collected by filtration. Yield: 343 mg.

reactant | 4-Methyl-5-methyl-4H-[1,2,4]triazole-3-thiol | 1.78 mmol, 0.23 g | CN1C(=NN=C1C)S | C4H7N3S
reactant | lithium hydroxide | 1.78 mmol, 0.04 g | [OH-].[Li+]
reactant | sodium iodide | 0.89 mmol, 0.13 g | [I-].[Na+]
reactant | 2-tert-butyl-4-[4-(3-chloro-propyl)-piperazin-1-yl]-6-cyclopropyl-pyrimidine | 1.78 mmol, 0.6 g | C(C)(C)(C)C1=NC(=CC(=N1)N1CCN(CC1)CCCCl)C1CC1 | C18H29ClN4
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 2-tert-Butyl-4-{4-[3-(4-methyl-5-methyl-4H-[1,2,4]triazol-3-ylsulfanyl)-propyl]-piperazin-1-yl}-6-cyclopropyl-pyrimidine hydrochloride | Cl.C(C)(C)(C)C1=NC(=CC(=N1)N1CCN(CC1)CCCSC1=NN=C(N1C)C)C1CC1 | InChI=1S/C22H35N7S.ClH/c1-16-25-26-21(27(16)5)30-14-6-9-28-10-12-29(13-11-28)19-15-18(17-7-8-17)23-20(24-19)22(2,3)4;/h15,17H,6-14H2,1-5H3;1H
